US08497381B2
Step 2: [2-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester
(5-Bromo-2-methoxy-phenyl)-acetic acid methyl ester (0.9 g, 3.5 mmol), bis(pinacolato)diboron (1.3 g, 5.2 mmol), potassium acetate (1.0 g, 10.4 mmol), and (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (II) (0.284 g, 0.35 mmol) were combined in DMF (10 mL), and the mixture was purged with N2 for 10 minutes. The reaction was stirred at 80° C. for 3 hours, until no starting material was seen by analytical LCMS. After cooling to room temperature, the mixture was worked-up with EtOAc and brine and purified by silica gel chromatography to give the title compound.

reactant | (5-Bromo-2-methoxy-phenyl)-acetic acid methyl ester | 3.5 mmol, 0.9 g | COC(CC1=C(C=CC(=C1)Br)OC)=O | C10H11BrO3
reactant | bis(pinacolato)diboron | 5.2 mmol, 1.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.4 mmol, 1.0 g | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [2-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)=O | C16H23BO5
